US05922697
Step 1: (S)-2-[3-(6-Hydroxy-naphthalen-1-yl)-ureido]-pentanedioic acid 5-tert-butyl ester 1-methyl ester
To H-Glu(OtBu)-OCH3 (2.0 mmol, 0.50 g) in dichloromethane (25 mL) at 0° C. was added pyridine (8 mmol, 0.66 mL) then followed by dropwise addition of phosgene in toluene (3.0 mmol, 1.60 mL, 1.92 M). After stirring at 0° C. for 2 hours, 1-amino-6-naphthol (2.0 mmol, 0.32 g) was added in dichloromethane. After stirring at room temperature for 12 hours, the reaction mixture was evaporated to dryness and purified on silica gel (1:19, methanol/dichloromethane) to provide product as a light brown solid (0.71 g, 88%).

reactant | H-Glu(OtBu)-OCH3 | 2.0 mmol, 0.50 g | N[C@@H](CCC(OC(C)(C)C)=O)C(=O)OC | C10H19NO4
reactant | pyridine | 8 mmol, 0.66 mL | N1=CC=CC=C1 | C5H5N
reactant | phosgene | C(=O)(Cl)Cl | CCl2O
reactant | toluene | 3.0 mmol, 1.92 M, 1.60 mL | C1(=CC=CC=C1)C | C7H8
reactant | 1-amino-6-naphthol | 2.0 mmol, 0.32 g | NC1=CC=CC2=CC(=CC=C12)O | C10H9NO
solvent | dichloromethane | 25 mL | ClCCl | CH2Cl2
product | (S)-2-[3-(6-Hydroxy-naphthalen-1-yl)-ureido]-pentanedioic acid 5-tert-butyl ester 1-methyl ester | 0.71 g, 88% | COC([C@H](CCC(=O)OC(C)(C)C)NC(=O)NC1=CC=CC2=CC(=CC=C12)O)=O | C21H26N2O6
